US05104888
Ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-yl-methoxy)phenyl]-2-chloro-2-methylpropionate (Step A4)
Following the same procedure as described in Preparation 18, 2 g of 6-acetoxy-2-(4-aminophenoxymethyl)-2,5,7,8-tetramethylchroman (prepared as described in Preparation 50), 25 ml of acetone, 3 ml of 35% w/v aqueous hydrochloric acid, 0.7 g of sodium nitrite, 1 ml of water, 8 g of ethyl methacrylate and 0.2 g of cuprous oxide were reacted, to give the title compound.

reactant | 6-acetoxy-2-(4-aminophenoxymethyl)-2,5,7,8-tetramethylchroman | 2 g | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)N)C | C22H27NO4
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 0.7 g | N(=O)[O-].[Na+]
reactant | ethyl methacrylate | 8 g | C(C(=C)C)(=O)OCC | C6H10O2
solvent | water | 1 ml | O | H2O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | Ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-yl-methoxy)phenyl]-2-chloro-2-methylpropionate | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)(C)Cl)C | C28H35ClO6
